US07265093B2
Synthesis of (S)-2-(2,3-Dioxo-2,3-dihydro-1H-indole-5-sulfonylamino)-3-phenyl-propionamide.
The title compound was prepared from L-Phe-NH2 following the procedure for 2,3-Dioxo-2,3-dihydro-1H-indole-5-sulfonic acid propylamide.

reactant | L-Phe-NH2 | N[C@@H](CC1=CC=CC=C1)C(=O)N | C9H12N2O
reactant | 2,3-Dioxo-2,3-dihydro-1H-indole-5-sulfonic acid propylamide | C(CC)NS(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=O | C11H12N2O4S
product | (S)-2-(2,3-Dioxo-2,3-dihydro-1H-indole-5-sulfonylamino)-3-phenyl-propionamide | O=C1NC2=CC=C(C=C2C1=O)S(=O)(=O)N[C@H](C(=O)N)CC1=CC=CC=C1 | C17H15N3O5S
